US06255276B1
1.14 g of 10 percent palladium-on-carbon were added to 13.5 g (57 mol) of 10-methyloxacyclopentadec-9-en 2-one in 60 ml of ethanol and the mixture was subsequently hydrogenated under normal pressure for 6.5 hours. Then, it was suction filtered over Celite and the solution was concentrated, chromatographed and distilled in a bulb-tube. 8.4 g (62%) of 10-methyloxacyclopentadecan-2-one were obtained having the following characteristics:

reactant | 10-methyloxacyclopentadec-9-en 2-one | 57 mol, 13.5 g | CC1=CCCCCCCC(OCCCCC1)=O | C15H26O2
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 1.14 g | [Pd] | Pd
product | 10-methyloxacyclopentadecan-2-one | 8.4 g, 62% | CC1CCCCCCCC(OCCCCC1)=O | C15H28O2
